US06063782
7-Benzyloxy-2,3-dimethyl-1-(2-propynyl)pyrrolo[2,3-d]pyridazine
The title compound was prepared as a pale yellow powder in 27.40% yield in a similar procedure to that described in Example 41 by using 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine and 3-bromo-1-propyne.

reactant | 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C1=CC=CC=C1)OC=1N=NC=C2C1NC(=C2C)C | C15H15N3O
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
product | 7-Benzyloxy-2,3-dimethyl-1-(2-propynyl)pyrrolo[2,3-d]pyridazine | 27.40% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)CC#C | C18H17N3O
